US08877782B2
N-(1-Isopropyl-piperidin-4-yl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 34, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using N-isopropyl-4-aminopiperidine instead of 1-methylpiperidin-4-amine, to the title compound (110 mg, 73%) which was obtained as a white foam. MS: m/e=435.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | N-isopropyl-4-aminopiperidine | C(C)(C)N1CCC(CC1)N | C8H18N2
product | N-(1-Isopropyl-piperidin-4-yl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 110 mg, 73% | C(C)(C)N1CCC(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C25H30N4O3
